US05428160
a) 4-(3-Formyl-n-propyl)-1-trimethylsilylimidazole
A solution of 1.82 g of 4-(3-ethoxycarbonylpropyl)-1H-imidazole in 30 ml of tetrahydrofuran under nitrogen is treated with 0.5 g of sodium hydride (50% oil dispersion ) at 0° for 30 min and 1.45 ml of trimethylsilyl chloride at 0° for 3 h. The reaction mixture is washed with cold 0.5N sodium bicarbonate solution, dried over sodium sulfate and evaporated to dryness. The oil is redissolved in 100 ml of methylene chloride at -78° under nitrogen and 12.82 ml of diisobutylaluminium hydride (1.56M) is added dropwise. The reaction mixture is stirred for 5 min at -78°, quenched with 1 ml of methanol followed by 10 ml of water and filtered through Celite®. The organic phase is separated, dried over sodium sulfate and evaporated to yield the title compound a).

reactant | 4-(3-ethoxycarbonylpropyl)-1H-imidazole | 1.82 g | C(C)OC(=O)CCCC=1N=CNC1 | C9H14N2O2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | trimethylsilyl chloride | 1.45 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(3-Formyl-n-propyl)-1-trimethylsilylimidazole | C(=O)CCCC=1N=CN(C1)[Si](C)(C)C | C10H18N2OSi
